Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
Night sweats
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p AV replacement with bioprosthetic aortic valve
replacement, history of strep viridans endocarditis in ___, 
HTN,
HLD, who presents with 2 days of nightsweats and myalgias. 

He reports that he had a head cold 1 week ago with myalgias,
congestion, and cough though did not have a sore throat or 
notice
any swollen lymph nodes at the time. His son had similar 
symptoms
a week prior. His symptoms are associated with lightheadedness,
poor PO intake, and watery diarrhea ___ times per day. Denies 
any
fevers. He initially felt like his symptoms were improving but
then developed worsening malaise and muscle aches prompting him
to present to his PCP ___ ___. Blood cultures and lyme serologies
were obtained at that time, as well as a CXR which was
reassuring. He then developed nightsweats the following day 
which
was very concerning to him as he had similar nightsweats during
his prior episode of endocarditis. He subsequently presented to
the ___ ED where repeat blood cultures were obtained. He
was given a prescription for doxycycline and discharged to home.
He continued to feel poorly and called into his primary care
clinic where he was advised to present to the ED. 

He spends time outdoors though denies any recent known tick
bites. He had a dental cleaning 5 weeks ago, prior to which he
took prophylactic amoxicillin. He denies any recent travel. 

In the ED:
Initial vital signs were notable for:
Temp: 98 HR: 65 BP: 160/88 Resp: 20 O2 Sat: 100
Exam notable for:

Constitutional: Comfortable, well-appearing
Head / Eyes: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
ENT / Neck: Oropharynx within normal limits
Chest/Resp: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and second
heart sounds. No carotid bruits.
GI / Abdominal: Bowel sounds present throughout. , Soft,
Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness
Musc/Extr/Back: No cyanosis, clubbing or edema
Skin: No rash, Warm and dry
Neuro: Speech fluent. CN III-XII intact. UE and ___ strength ___
and symmetric.

Labs were notable for:
AST 74 ALT 43
CRP 98

Studies performed include:
TTE - no evidence of endocarditis

Patient was given:
IV Vancomycin

Upon arrival to the floor, he reports malaise, weakness, all 
over
muscle aches, and lightheadedness. He denies any headache, sore
throat, chest pain/pressure, shortness of breath or difficulty
breathing, abdominal pain, nausea, vomiting, black or bloody
stools, dysuria, leg pain or swelling. 

 
Past Medical History:
- Hypertension
- Bicuspid aortic valve s/p recent human cadaver replacement 
(___)
- S. viridans paravalvular abscess s/p AVR
- Right thorascopic partial lung decortication (___)
- ___ ___ EnPulse DDD pacemaker placed (last interrogated 
in ___ and functioning well)

 
Social History:
___
Family History:
Mr. ___ was adopted at a young age and the history of his
parents are unknown.

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: T97.8 BP155/84 HR60 RR18 O2-100
GENERAL: Alert and interactive. In no acute distress. 
Diaphoretic.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
Systolic
murmur best auscultated over R sternal border. Well-healed
sternal incision. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No palpable organomegaly.
Palpable pacemaker under R abdominal wall non-tender and without
overlying erythema. 
EXTREMITIES: No clubbing, cyanosis, or edema. No ___ lesions
___ nodes.
SKIN: Warm.  No rash.
NEUROLOGIC: CN2-12 grossly intact. ___ strength throughout.
Normal sensation. AOx3.

========================
DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 1521)
    Temp: 97.8 (Tm 98.6), BP: 133/81 (107-133/69-85), HR: 60
(59-76), RR: 18 (___), O2 sat: 98% (96-99), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress. 
Diaphoretic.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. 
Systolic
murmur best auscultated over R sternal border. Well-healed
sternal incision. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No palpable organomegaly.
Palpable pacemaker under R abdominal wall non-tender and without
overlying erythema. 

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:53AM BLOOD WBC-4.5 RBC-4.96 Hgb-14.9 Hct-42.3 MCV-85 
MCH-30.0 MCHC-35.2 RDW-12.2 RDWSD-37.5 Plt ___
___ 10:53AM BLOOD Neuts-51.4 ___ Monos-9.0 Eos-1.1 
Baso-0.9 Im ___ AbsNeut-2.33 AbsLymp-1.69 AbsMono-0.41 
AbsEos-0.05 AbsBaso-0.04
___ 10:53AM BLOOD Plt ___
___ 10:53AM BLOOD Glucose-130* UreaN-15 Creat-0.9 Na-138 
K-4.1 Cl-98 HCO3-24 AnGap-16
___ 10:53AM BLOOD ALT-74* AST-43* AlkPhos-74 TotBili-1.3
___ 10:53AM BLOOD Albumin-4.1
___ 11:08AM BLOOD Lactate-1.5

PERTINENT INTERVAL LABS:
========================
___ 06:30AM BLOOD Parst S-NEGATIVE
___ 06:00AM BLOOD IPT-DONE
___ 06:30AM BLOOD GGT-71*
___ 06:30AM BLOOD TSH-1.2
___ 06:30AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 06:00AM BLOOD AMA-NEGATIVE Smooth-NEGATIVE
___ 06:30AM BLOOD ANCA-NEGATIVE B
___ 06:00AM BLOOD ___
___ 10:53AM BLOOD CRP-98.0*
___ 06:00AM BLOOD IgG-964
___ 05:59AM BLOOD C3-139 C4-34
___ 06:30AM BLOOD HIV Ab-NEG
___ 05:59AM BLOOD CMV VL-NOT DETECT
___ 01:40PM BLOOD HIV1 VL-NOT DETECT

Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          38  H               < OR = 20 mm/h
___                                        

Test                          Result              Reference 
Range/Units
QUANTIFERON(R)-TB GOLD        NEGATIVE            NEGATIVE
 
Negative test result. M. tuberculosis complex 
infection unlikely.
 
Test                          Result              Reference 
Range/Units
NIL                           0.03                IU/mL
MITOGEN-NIL                   9.17                IU/mL
TB-NIL                        <0.00               IU/mL
 
The Nil tube value is used to determine if the patient
has a preexisting immune response which could cause a 
false-positive reading on the test. In order for a 
test to be valid, the Nil tube must have a value of 
less than or equal to 8.0 IU/mL.
 
The mitogen control tube is used to assure the patient 
has a healthy immune status and also serves as a 
control for correct blood handling and incubation. It 
is used to detect false-negative readings. The mitogen 
tube must have a gamma interferon value of greater 
than or equal to 0.5 IU/mL higher than the value of 
the Nil tube.
 
The TB antigen tube is coated with the M. tuberculosis
specific antigens. For a test to be considered 
positive, the TB antigen tube value minus the Nil tube 
value must be greater than or equal to 0.35 IU/mL.

Test                          Result              Reference 
Range/Units
Q FEVER IGG PHASE I SCR       NEGATIVE            
 
REFERENCE RANGE: NEGATIVE
 
Test                          Result              Reference 
Range/Units
Q FEVER IGG PHASE II SCR      NEGATIVE            
 
REFERENCE RANGE: NEGATIVE
 
Test                          Result              Reference 
Range/Units
Q FEVER IGM PHASE I SCR       NEGATIVE            
 
REFERENCE RANGE: NEGATIVE
 
Test                          Result              Reference 
Range/Units
Q FEVER IGM PHASE II SCR      NEGATIVE            
 
REFERENCE RANGE: NEGATIVE
 
Q Fever Antibody testing includes differentiation
of antibodies to Phase I and Phase II antigenic
variants. Coxiella burnetii, which causes Q Fever,
undergoes transitions between Phase I and Phase II
states. These phases are serologically
distinguishable and useful in the serodiagnosis of
acute and chronic disease.
In some cases, the ratio of titer of Phase II to
Phase I may indicate the stage of the disease.
A ratio of greater than ___ indicate the acute
stage; greater than or equal to 1, granulomatous
hepatitis; and less than 1, the chronic stage or
endocarditis.
As with other infectious diseases, IgM antibodies
are the first to appear. Usually they are
detectable for a few weeks or, at the most, for a
few months. IgG antibodies appear somewhat later
but can persist for years, even for life.
Although single Phase II IgG titers of 1:256 or
greater are considered evidence of acute C.
burnetii disease, the best criterion for a
dependable diagnosis is still the demonstration of
a fourfold or higher increase in antibody titer
between the acute and convalescent serum samples.

      
Test                          Result              Reference 
Range/Units
MYCOPLASMA PNEUMONIAE         2.64  H             <=0.90
ANTIBODY (IGG)                                    
 
     
Reference Range:
             <=0.90     Negative
          0.91-1.09     Equivocal
             >=1.10     Positive
 
 
A positive IgG result indicates that the patient has
antibody to Mycoplasma. It does not differentiate
between an active or past infection. The clinical
diagnosis must be interpreted in conjunction with
the clinical signs and symptoms of the patient.

Test                          Result              Reference 
Range/Units
MYCOPLASMA PNEUMONIAE         115                 <770 U/mL
ANTIBODY (IGM)                                    
 
 
Reference Range:
    <770 U/ml    Negative
 770-950 U/mL    Low positive
    >950 U/mL    Positive
 
 
A positive IgM antibody result is consistent with
recent infection. However, a negative result does not
necessarily rule out recent infection as some
individuals may not mount another IgM response, if
previously infected.
 
A positive IgM antibody result with or without a
positive IgG antibody result, is consistent with recent
infection. However, a negative result does not
necessarily rule out recent infection as some
individuals may not mount another IgM response, if
previously infected. A positive IgG antibody result in
the absence of a positive IgM antibody result,
indicates that the patient has antibody to Mycoplasma.
It does not differentiate between an active or past
infection. The clinical diagnosis must be interpreted
in conjunction with the clinical signs and symptoms of
the patient.

Test                          Result              Reference 
Range/Units
B. HENSELAE AB (IGG), SCREEN  Negative            
___ AB (IGG), SCREEN  Negative            
B. ___ AB (IGM), SCREEN  Negative            
___ AB (IGM), SCREEN  Negative            
 
 
Reference Range: Negative
 
Whereas sera from 10% of healthy controls exhibit
Bartonella henselae and Bartonella ___ IgG titers
of 1:64 - 1:128,none show titers of 1:256 or above.
Sera from 95% of patients with clinically defined cat
scratch disease show IgG titers of 1:64 and above; 79%
exhibit titers of 1:256 and above. IgM titers at 1:20
or higher have not been detected in the normal adult
population.  Individuals infected with either B.
henselae or ___ may not have initial IgG
titers greater than or equal to 1:64; confirmation of
infection with either organism may therefore require
testing of serial specimens to detect increasing IgG
titers or the presence of IgM. IgG crossreactivity
between B. henselae and ___ may occur at any
titer. Crossreactivity of IgM between the two species
is limited, and typically is not seen.
 
The two major clinical manifestations associated with
___ infection are urban trench fever and
endocarditis. Due to the acute nature of urban trench
fever, both ___ IgG and IgM may be positive.
In contrast, B. ___ endocarditis
typically reflects chronic infection, and these
patients nearly always exhibit an IgG positive but
IgM negative result pattern.
 
This test was developed and its analytical performance
characteristics have been determined by ___, ___. It has
not been cleared or approved by the ___. Food ___ Drug
Administration. This assay has been validated pursuant
to the ___ regulations and is used for clinical
purposes.

Test                          Result              Reference 
Range/Units
BRUCELLA ANTIBODY TITER       <1:80               <1:80
 
The most reliable serologic indicator of
brucellosis is a four-fold increase in antibody
titer when testing acute and convalescent sera in
parallel. In the absence of paired sera, a single
specimen titer of 1:80 or greater is consistent
with brucellosis in a patient with a compatible
clinical history.
 
Test                          Result              Reference 
Range/Units
ANAPLASMA PHAGOCYTOPHILUM     Not Detected        Not Detected
DNA, QL REAL TIME PCR                             
  
Test                          Result              Reference 
Range/Units
A. PHAGOCYTOPHILUM IGG        <1:64               <1:64
A. PHAGOCYTOPHILUM IGM        <1:20               <1:20
     
INTERPRETATION                Antibody Not Detected
 
LABS PENDING AT DISCHARGE:
==========================
___ 10:26AM BLOOD BORRELIA MIYAMOTOI -PND
___ 10:24AM BLOOD BORRELIA MIYAMOTOI, PCR-PND
___ 05:59AM BLOOD EBV PCR, QUANTITATIVE, WHOLE BLOOD-PND
___ 06:00AM BLOOD ANTI-LIVER-KIDNEY-MICROSOME ANTIBODY-PND  
 

DISCHARGE LABS:
===============
___ 05:59AM BLOOD WBC-7.2 RBC-4.52* Hgb-13.6* Hct-39.2* 
MCV-87 MCH-30.1 MCHC-34.7 RDW-12.3 RDWSD-38.9 Plt ___
___ 06:00AM BLOOD Neuts-41.8 ___ Monos-6.7 Eos-1.6 
Baso-0.9 Im ___ AbsNeut-3.19 AbsLymp-3.68 AbsMono-0.51 
AbsEos-0.12 AbsBaso-0.07
___ 05:59AM BLOOD Glucose-103* UreaN-13 Creat-0.9 Na-139 
K-4.5 Cl-103 HCO3-23 AnGap-13
___ 05:59AM BLOOD ALT-439* AST-245* AlkPhos-71 TotBili-0.6
___ 05:59AM BLOOD Calcium-9.4 Phos-3.1 Mg-2.1

IMAGING STUDIES:
================
CXR (___): No acute intrathoracic process.

TTE (___): 
CONCLUSION:
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal cavity size. There is normal 
regional and global left ventricular systolic function. 
Quantitative biplane left ventricular ejection fraction is 67 %. 
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal. There 
is no evidence for an aortic arch coarctation. An aortic valve 
bioprosthesis is present. The prosthesis is well seated with 
thickened leaflets but normal gradient. No masses or vegetations 
are seen on the aortic valve. The effective orifice area index 
is moderately reduced (0.65-0.90 cm2/m2). There is trace aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with leaflet straightening, but no frank systolic prolapse. No 
masses or vegetations are seen on the mitral valve. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. No mass/vegetation are seen on the 
tricuspid valve. There is mild [1+] tricuspid regurgitation. 
There is mild pulmonary artery systolic hypertension. There is 
no pericardial effusion.

IMPRESSION: Well seated bioprosthetic aortic valve prosthesis 
with normal gradient and trace aortic regurgitation. No 2D 
echocardiographic evidence for endocarditis. If clinically 
suggested, the absence of a discrete vegetation on 
echocardiography does not exclude the diagnosis of endocarditis. 
Compared with the prior TTE (images reviewed) of ___, the 
findings are similar.

RUQ U/S (___): No significant liver or biliary 
abnormalities identified.

CXR (___): Comparison to ___.  Stable alignment 
of the sternal wires. Stable position of the pacemaker leads.  
No pneumonia, no pulmonary edema, no pleural effusions.  No 
pneumothorax. 

CT CHEST (___):
1. No evidence of intrathoracic malignancy or active infection. 
2. Mild centrilobular and paraseptal emphysema. 
3. Please see separately submitted Abdomen and Pelvis CT report 
for 
subdiaphragmatic findings. 

CT ABD/PELVIS (___):
1. No evidence of active infection or malignancy within the 
abdomen or pelvis. 
2. Mild splenomegaly. 
3. Please see the separately submitted report of the same day CT 
Chest for 
findings above the diaphragm. 

TEE (___):
CONCLUSION:
There is no evidence for an atrial septal defect by 2D/color 
Doppler. Overall left ventricular systolic function is normal. 
The right ventricle has normal free wall motion. There are no 
aortic arch atheroma with no atheroma in the descending aorta. 
An aortic valve bioprosthesis is present. The prosthesis is well 
seated with normal disc motion. No masses or vegetations are 
seen on the aortic valve. No abscess is seen. There is no aortic 
regurgitation. The mitral valve leaflets appear structurally 
normal with no mitral valve prolapse. No masses or vegetations 
are seen on the mitral valve. No abscess is seen. There is no 
mitral regurgitation. The tricuspid valve leaflets appear 
structurally normal. No mass/vegetation are seen on the 
tricuspid valve. No abscess is
seen. There is no tricuspid regurgitation.

IMPRESSION: Well seated bioprostethic aortic valve. No valvular 
mass or vegetation seen. Normal biventricular systolic function.

MICROBIOLOGY:
=============
__________________________________________________________
___ 8:43 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 9:37 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 5:59 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 9:40 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 7:50 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 6:00 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 5:50 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:10 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 7:15 pm BLOOD CULTURE      #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 7:25 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:30 am Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 
__________________________________________________________
___ 6:30 am Blood (CMV AB)

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 
__________________________________________________________
___ 6:30 am SEROLOGY/BLOOD

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 
__________________________________________________________
___ 5:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 12:05 pm BLOOD CULTURE      #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 10:53 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 11:40 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

FLOW CYTOMETRY:
===============
PENDING AT DISCHARGE
 
Brief Hospital Course:
SUMMARY:
========
___ s/p AV replacement with bioprosthetic aortic valve 
replacement, history of strep viridans endocarditis in ___, 
HTN, HLD, presenting with 7 days of drenching nightsweats and 
transaminitis.

ACUTE ISSUES ADDRESSED:
=======================
#Drenching nightsweats
Presenting with 1 week of malaise and body aches and 2 days of 
nightsweats which have continued since admission. No other 
localizing symptoms. No recent travel. Works in ___. 
No recent sick contacts, no pets at home. No bug/tick bites. 
Labs on admission were notable for elevated inflammatory markers 
and transaminitis. Infectious disease and hepatology were 
consulted. Despite extensive workup as below, still unclear 
etiology for his symptoms. Received 1 dose IV vancomycin on 
admission, but antibiotics otherwise held given unclear source. 
He will have follow-up in 2 weeks with infectious disease. We 
will continue to monitor pending lab work at discharge.

Workup notable for:
- Blood cultures: no growth to date ___, 
___
- UA: no evidence of infection, UCx: no growth to date
- C.Diff, stool cultures: negative
- CXR: negative for PNA
- Abdominal U/S: negative for ascites/gallbladder disease
- TTE and TEE: negative for vegetation
- Lyme titers: negative
- Babesia, anaplasma serologies and PCR: negative
- HIV: negative
- Hepatitis serologies (HAV, HBV, HCV): negative
- Parasite smear: negative
- Monospot: negative
- EBV, CMV: negative
- ANCA: negative
- Q fever: negative
- Bartonella Ab: negative
- TSH: within normal limits
- IgG 964
- C3 139 and C4 34 
- CT torso with contrast: negative for occult infection/abscess, 
no evidence of lymphadenopathy to suggest malignancy
- Patient reporting otherwise up to date on age-related cancer 
screenings 

Workup pending at discharge:
- ___
- ___, AMA, anti-liver/kidney Ab (autoimmune hepatitis)
- HIV VL
- CMV VL, EBV PCR
- RPR
- Brucella Ab
- Legionella
- Mycoplasma pneumoniae Ab
- Quant gold
- Borrelia serology, PCR
- Flow cytometry

#Transaminitis: 
Differential is broad and includes sequelae of infectious 
etiology as above, versus medication effect (recently on 
doxycycline). Otherwise, abdominal U/S negative, hepatitis 
serologies negative. Autoimmune antibodies pending at discharge. 
CK within normal limits. Held home statin. He should have repeat 
LFTs 2 days after discharge.

#Bioprosthetic AVR: 
Continue home ASA. TTE and TEE negative for endocarditis as 
above. 

#HTN: 
Continue home metoprolol.

#DDD Pacemaker: 
Placed in ___ for complete heart block in setting of LVOT 
abscess and endocarditis. Follow up as scheduled in device 
clinic.

TRANSITIONAL ISSUES:
====================
[] Follow up pending workup as above, infectious portion to be 
followed by ID
[] Repeat LFTs in 2 days
[] Held home statin given transaminitis, please restart once 
transaminitis has resolved
[] Follow up with infectious disease in 2 weeks and primary care 
provider ___ 2 days
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. Simvastatin 20 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Metoprolol Tartrate 25 mg PO BID  
3.  Multivitamins 1 TAB PO DAILY  
4. HELD- Simvastatin 20 mg PO QPM  This medication was held. Do 
not restart Simvastatin until speaking with your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Night sweats

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had night sweats at home.  

What happened while I was in the hospital?  
- You had blood tests, a CT scan, and imaging of your heart. All 
of which have resulted normal, with some tests still pending at 
discharge.
- You were monitored in the hospital, and your vital signs have 
remained stable. 
- While, we have not found a cause for your night sweats, we 
feel comfortable discharging you from the hospital and having 
you follow up with your outpatient providers.

What should I do after leaving the hospital?  
- Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 
- Please call your primary care doctor ___ morning to make an 
appointment and have liver function tests done on ___. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
 
Followup Instructions:
___